US07060827B2
In a manner similar to the preparation of 2-chloro-N4-(3,4-ethylenedioxyphenyl)-5-fluoro-4-pyrimidineamine, 2,4-dichloro-5-fluoropyrimidine and 3-aminobenzylalcohol were reacted to yield 2-chloro-5-fluoro-N4-[3-(hydroxymethyl)phenyl]-4-pyrimidineamine. 1H NMR (CDCl3): δ 8.45 (bs, 1H), 7.96 (d, 1H, J=2.9 Hz), 7.65 (d, 1H, J=8.2 Hz), 7.34 (s, 1H), 7.31 (t, 1H, J=8.2 Hz), 7.07 (d, 1H, J=8.2), 4.52 (s, 2H)); 19F NMR (CDCl3): −44394 (s, 1F); LCMS: ret. time: 20.29 min.; purity: 100%; MS (m/e): 254 (MH+).

reactant | 2-chloro-N4-(3,4-ethylenedioxyphenyl)-5-fluoro-4-pyrimidineamine | ClC1=NC=C(C(=N1)NC1=CC2=C(C=C1)OCCO2)F | C12H9ClFN3O2
reactant | 2,4-dichloro-5-fluoropyrimidine | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | 3-aminobenzylalcohol | NC=1C=C(CO)C=CC1 | C7H9NO
product | 2-chloro-5-fluoro-N4-[3-(hydroxymethyl)phenyl]-4-pyrimidineamine | ClC1=NC=C(C(=N1)NC1=CC(=CC=C1)CO)F | C11H9ClFN3O
